US04052205
Preparation of 1-isopropyl anthracene
Into a 500 milliliter hydrogenation bottle was placed 0.2 grams of 5% palladium on carbon, 10 grams of 1-(2-propenyl) anthracene and 200 milliliters of hexane and the bottle flushed three times with hydrogen. Hydrogen was fed into the bottle at an initial pressure of 23 pounds per square inch which after 3 days had a final pressure of 19 pounds per square inch. The mixture was filtered, evaporated to an oil and chromatographed on basic alumina with hexane. The mixture was washed with a 10:1 mixture of hexane and benzene and distilled to recover a fraction of pure isopropyl anthracene having a melting point of 36°-36.5° C.

reactant | 1-(2-propenyl) anthracene | 10 grams | C(C=C)C1=CC=CC2=CC3=CC=CC=C3C=C12 | C17H14
reactant | hexane | 200 milliliters | CCCCCC | C6H14
catalyst | palladium on carbon | 0.2 grams | [Pd] | Pd
product | 1-isopropyl anthracene | C(C)(C)C1=CC=CC2=CC3=CC=CC=C3C=C12 | C17H16
